US07897762B2
To a solution of diphosgene (0.85 mL, 7.2 mmol) in anhydrous dioxane (20 mL) was added a solution of 5-((4-fluoro-2-methyl-5-nitrophenylamino)methyl)-N-methyl-2-(methylthio)pyrimidin-4-amine (2.2 g, 6.5 mmol) and Et3N (1.32 g, 13 mmol) in anhydrous dioxane (50 ml) at 0° C. After the addition, the resulting mixture was stirred at 50° C. overnight. Water was added and the mixture was neutralized with saturated Na2CO3 solution to pH 8. The dioxane was removed in vacuo, and the aqueous layer was extracted with EtOAc (3×60 mL). The combined organics were washed with brine, dried (Na2SO4) and concentrated. The residue was washed with ether and dried in vacuo to afford 3-(4-fluoro-2-methyl-5-nitrophenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (2 g, 84%). 1H NMR (400 MHz, CDCl3): δ 8.04 (s, 1 H), 7.97 (d, J=8 Hz, 1 H), 7.18 (d, J=12 Hz, 1 H), 4.73 (d, J=14.8 Hz, 1 H), 4.42 (d, J=14.8 Hz, 1 H), 3.40 (s, 3 H), 2.52 (s, 3 H), 2.25 (s, 3 H); MS (ESI) m/z: 364.1 [M+H]+.

reactant | diphosgene | 7.2 mmol, 0.85 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 5-((4-fluoro-2-methyl-5-nitrophenylamino)methyl)-N-methyl-2-(methylthio)pyrimidin-4-amine | 6.5 mmol, 2.2 g | FC1=CC(=C(C=C1[N+](=O)[O-])NCC=1C(=NC(=NC1)SC)NC)C | C14H16FN5O2S
reactant | Et3N | 13 mmol, 1.32 g | CCN(CC)CC | C6H15N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
product | 3-(4-fluoro-2-methyl-5-nitrophenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 2 g, 84% | FC1=CC(=C(C=C1[N+](=O)[O-])N1C(N(C2=NC(=NC=C2C1)SC)C)=O)C | C15H14FN5O3S
